// Generated for: spectre
// Generated on: Nov 12 05:45:41 2014
// Design library name: ExperimentalCells
// Design cell name: ADDER_TEST2
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/uusoc/facility/cad_common/local/class/6710/F13/cadence/Spectre/T89Y.scs"

// Library name: Lib6710_08
// Cell name: ADDER
// View name: schematic
subckt ADDER A B Cin Cout S inh_inh_bn
    M27 (Cout net014 vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M26 (S net023 vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M15 (net023 net014 net35 vdd!) ami06P w=3u l=600n as=4.5e-12 \
        ad=4.5e-12 ps=9u pd=9u m=1 region=sat
    M14 (net35 B vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M13 (net35 Cin vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M10 (net35 A vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M7 (net023 A net53 vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M6 (net53 B net54 vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M5 (net54 Cin vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M4 (net55 B vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M3 (net46 B vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M2 (net014 A net55 vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M1 (net014 Cin net46 vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M0 (net46 A vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M29 (Cout net014 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M28 (S net023 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M25 (net51 Cin 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M24 (net50 B net51 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M23 (net023 A net50 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M22 (net34 Cin 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M21 (net34 B 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M20 (net014 A net52 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M19 (net34 A 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M18 (net52 B 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M17 (net023 net014 net34 gnd!) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    M16 (net45 B 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M8 (net014 Cin net45 gnd!) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    M11 (net45 A 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends ADDER
// End of subcircuit definition.

// Library name: ExperimentalCells
// Cell name: ADDER_TEST2
// View name: schematic
I0 (A B Cin Cout Sum 0) ADDER
V2 (Cin 0) vsource type=pulse val0=5 val1=0 period=160n width=80n
V1 (B 0) vsource type=pulse val0=5 val1=0 period=80n width=40n
V0 (A 0) vsource type=pulse val0=5 val1=0 period=40n width=20n
V3 (vdd! 0) vsource type=dc dc=5
C1 (Cout 0) capacitor c=100.0f m=1
C0 (Sum 0) capacitor c=100.0f m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=160n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
