// Generated for: spectre
// Generated on: Nov 12 06:07:53 2014
// Design library name: ExperimentalCells
// Design cell name: MUX_TEST
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/uusoc/facility/cad_common/local/class/6710/F13/cadence/Spectre/T89Y.scs"

// Library name: Lib6710_08
// Cell name: MUX2X1
// View name: schematic
subckt MUX2X1 A B S Y inh_inh_bn
    P1 (A net11 Y vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P0 (B S Y vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    N1 (Y net11 B 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (Y S A 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    M0 (net11 S 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M1 (net11 S vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
ends MUX2X1
// End of subcircuit definition.

// Library name: ExperimentalCells
// Cell name: MUX_TEST
// View name: schematic
I0 (A B Sel Y 0) MUX2X1
V2 (A 0) vsource type=pulse val0=0 val1=5 period=40n width=20n
V1 (B 0) vsource type=pulse val0=0 val1=5 period=80n width=40n
V0 (Sel 0) vsource type=pulse val0=0 val1=5 period=160n width=80n
V3 (vdd! 0) vsource type=dc dc=5
C0 (Y 0) capacitor c=100.0f m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=160n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
