// Generated for: spectre
// Generated on: Oct 30 22:26:46 2014
// Design library name: ExperimentalCells
// Design cell name: TestYSD
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/uusoc/facility/cad_common/local/class/6710/F13/cadence/Spectre/T89Y.scs"

// Library name: ExperimentalCells
// Cell name: YSDFlipFlop
// View name: schematic
subckt YSDFlipFlop CLK D Q QBar inh_inh_bn _net0
    M5 (QBar Q vdd! _net0) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M4 (Q net16 vdd! _net0) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M3 (net16 net14 vdd! _net0) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M2 (net14 CLK vdd! _net0) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M1 (net10 CLK net31 _net0) ami06P w=6u l=600n as=9e-12 ad=9e-12 \
        ps=15.0u pd=15.0u m=1 region=sat
    M0 (net31 D vdd! _net0) ami06P w=6u l=600n as=9e-12 ad=9e-12 ps=15.0u \
        pd=15.0u m=1 region=sat
    M12 (QBar Q 0 inh_inh_bn) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M11 (Q net16 0 inh_inh_bn) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    M10 (net16 CLK net25 inh_inh_bn) ami06N w=3u l=600n as=4.5e-12 \
        ad=4.5e-12 ps=9u pd=9u m=1 region=sat
    M9 (net25 net14 0 inh_inh_bn) ami06N w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M8 (net14 net10 net27 inh_inh_bn) ami06N w=3u l=600n as=4.5e-12 \
        ad=4.5e-12 ps=9u pd=9u m=1 region=sat
    M7 (net27 CLK 0 inh_inh_bn) ami06N w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
    M6 (net10 D 0 inh_inh_bn) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends YSDFlipFlop
// End of subcircuit definition.

// Library name: ExperimentalCells
// Cell name: TestYSD
// View name: schematic
I0 (net1 net2 net4 net3 0 vdd!) YSDFlipFlop
V0 (vdd! 0) vsource type=dc dc=5
V2 (net2 0) vsource type=pulse val0=0 val1=5 period=30n delay=10n rise=1n \
        fall=1n width=20n
V1 (net1 0) vsource type=pulse val0=0 val1=5 period=40n rise=1n fall=1n \
        width=20n
C1 (net4 0) capacitor c=100f m=1
C0 (net3 0) capacitor c=100f m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=900n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
