// Generated for: spectre
// Generated on: Nov 12 06:18:21 2014
// Design library name: ExperimentalCells
// Design cell name: XOR_TEST
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/uusoc/facility/cad_common/local/class/6710/F13/cadence/Spectre/T89Y.scs"

// Library name: Lib6710_08
// Cell name: XOR2X1
// View name: schematic
subckt XOR2X1 A B Y inh_inh_bn
    M11 (net8 A 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    M10 (net7 B 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    M3 (net20 B 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    M2 (net19 net7 0 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M1 (Y A net20 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    M0 (Y net8 net19 gnd!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    M9 (net7 B vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M8 (net8 A vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M7 (net21 A vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M6 (net21 B vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M5 (Y net7 net21 vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M4 (Y net8 net21 vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
ends XOR2X1
// End of subcircuit definition.

// Library name: ExperimentalCells
// Cell name: XOR_TEST
// View name: schematic
C0 (Y 0) capacitor c=100.0f m=1
V1 (B 0) vsource type=pulse val0=0 val1=5 period=80n width=40n
V0 (A 0) vsource type=pulse val0=0 val1=5 period=40n width=20n
V2 (vdd! 0) vsource type=dc dc=5
I6 (A B Y 0) XOR2X1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=80n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
