// Generated for: spectre
// Generated on: Nov  1 21:51:17 2014
// Design library name: TestCharacterize
// Design cell name: YSDFlipFlopAsyncReset
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/uusoc/facility/cad_common/local/class/6710/F13/cadence/Spectre/T89Y.scs"

// Library name: TestCharacterize
// Cell name: YSDFlipFlopAsyncReset
// View name: schematic
M15 (net014 CLR vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
M5 (QBar Q vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
M4 (Q net16 vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
M3 (net16 net14 vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 \
        ps=9u pd=9u m=1 region=sat
M2 (net14 CLK vdd! vdd!) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
M1 (net10 CLK net31 vdd!) ami06P w=6u l=600n as=9e-12 ad=9e-12 ps=15.0u \
        pd=15.0u m=1 region=sat
M0 (net31 D vdd! vdd!) ami06P w=6u l=600n as=9e-12 ad=9e-12 ps=15.0u \
        pd=15.0u m=1 region=sat
M18 (net014 CLR 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
M21 (net14 net014 0 0) ami06N w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
M12 (QBar Q 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
M11 (Q net16 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
M10 (net16 CLK net25 0) ami06N w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
M9 (net25 net14 0 0) ami06N w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
M8 (net14 net10 net27 0) ami06N w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
M7 (net27 CLK 0 0) ami06N w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u pd=9u \
        m=1 region=sat
M6 (net10 D 0 0) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
